US03937761
To a stirred slurry of 10 grams (.0443 moles) of 4-t-amylazo-4-cyanovaleric acid in 50 mls. of pentane in a 100 ml. flask was added 9.37 grams(.045 moles) of PCl5 over a 10 minute period. After the addition was complete, the reaction was stirred at room temperature for another 50 minutes and poured into 100 mls. of ice water. The pentane layer was separated, washed with 10% NaHCO3 solution, dried over anhydrous Na2SO4, filtered and the pentane evaporated to leave 9.0 grams (84% yield) of 4-t-amylazo-4-cyanovaleryl chloride.

reactant | 4-t-amylazo-4-cyanovaleric acid | .0443 moles, 10 grams | C(C)(C)(CC)N=NC(CCC(=O)O)(C)C#N | C11H19N3O2
reactant | PCl5 | .045 moles, 9.37 grams | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | pentane | CCCCC | C5H12
product | 4-t-amylazo-4-cyanovaleryl chloride | 9.0 grams, 84% yield | C(C)(C)(CC)N=NC(CCC(=O)Cl)(C)C#N | C11H18ClN3O
